US09056311B2
Synthesis of 1-methyl-octahydroindole
To a solution of 100 g of 1-methylindole in absolute ethanol in a 600 mL autoclave, 5 g of PtO2 and 10 mL of H2SO4 were added. The mixture was sealed and pressurized with hydrogen to 1500 psig. The reaction mixture was heated at 100° C. overnight while stirring at about 400 rpm. The reaction mixture was pressurized again to 1500 psig and heated at 100° C. for several more hours. The reaction mixture was cooled and filtered to remove the catalyst. The filtrate was concentrated on a rotary evaporator to remove ethanol. The residue was neutralized with sodium hydroxide solution and left to stir at room temperature for about 30 minutes. The solution was transferred to a reparatory funnel and extracted with diethyl ether. The ether layer was dried over anhydrous MgSO4, filtered and concentrated at reduced pressure on a rotary evaporator to give 93.0 g of the product, 1-methyl-octahydroindole, as a yellow oil. The product was confirmed by NMR.

reactant | 1-methylindole | 100 g | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | PtO2 | 5 g | O=[Pt]=O
product | 1-methyl-octahydroindole | 93.0 g | CN1CCC2CCCCC12 | C9H17N
